US04970207
To a solution of (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-2H-1,4-benzodiazepine-2-one (1.90 g) in N,N-dimethylformamide (30 ml) was added sodium hydride (62% suspension in mineral oil; 0.20 g) gradually with stirring under cooling in an ice-bath (<3° C.). The mixture was stirred for 10 minutes under the same conditions. To the resultant mixture was added 2-[(tetrahydropyran-2-yl)oxy]ethyl bromide (1.60 g) in one portion. The mixture was stirred at ambient temperature for one hour and at 45° C. for 4.5 hours and allowed to stand overnight. The resultant reaction mixture was poured into water and extracted with ethyl acetate twice. The extract was washed with water and dried over magnesium sulfate. Removal of the solvent gave light yellow powder, which was washed with a mixture of ethyl acetate and diethyl ether and collected by filtration to afford a mixture (1.48 g) of (3RS)-1,3-dihydro -5-phenyl-3-phthalimido-1-{2-((RS)-2-tetrahydropyranyloxy) ethyl}-2H-1,4-benzodiazepine-2-one and (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-1-{2-((SR)-2tetrahydropyranyloxy)ethyl}-2H-1,4-benzodiazepine-2-one.

reactant | (3RS)-1,3-dihydro-5-phenyl-3-phthalimido-2H-1,4-benzodiazepine-2-one | 1.90 g | C1(=CC=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H15N3O3
reactant | sodium hydride | 0.20 g | [H-].[Na+]
reactant | 2-[(tetrahydropyran-2-yl)oxy]ethyl bromide | 1.60 g | O1C(CCCC1)OCCBr | C7H13BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (3RS)-1,3-dihydro -5-phenyl-3-phthalimido-1-{2-((RS)-2-tetrahydropyranyloxy) ethyl}-2H-1,4-benzodiazepine-2-one | 1.48 g | C1(=CC=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CCOC2OCCCC2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C30H27N3O5
